### PR TITLE
Lemma 7.5.3

### PR DESCRIPTION
**Pull request by lakesare**
[[blueprint]](https://florisvandoorn.com/carleson/blueprint/treesection.html#moderate-scale-change)

This is ready, PR review is appreciated.

### TODOs

- [x] factor out `have ⟨J'', belongs, plusOne⟩`, it's been used in two proofs already
- [x] remove the nonworking strict containment part from the blueprint
- [x] add `\leanok`
- [x] refactor

### CODE REVIEW

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 1]
```diff
@@ -114,11 +114,72 @@ lemma pairwiseDisjoint_𝓙₅ :
   have ss : (𝓙 (t.𝔖₀ u₁ u₂) ∩ Iic (𝓘 u₁)) ⊆ 𝓙 (t.𝔖₀ u₁ u₂) := inter_subset_left
   exact PairwiseDisjoint.subset (pairwiseDisjoint_𝓙 (𝔖 := 𝔖₀ t u₁ u₂)) ss
 
+lemma bigger_than_𝓙_is_not_in_𝓙₀ {𝔖 : Set (𝔓 X)} {A B : Grid X}
+    (le : A ≤ B) (sle : s A < s B) (A_in : A ∈ 𝓙 𝔖) :
+    B ∉ 𝓙₀ 𝔖 := by
```
Comment (lakesare) [inline Carleson/ForestOperator/LargeSeparation.lean:119]: I [didn't generalize this lemma/didn't move this lemma to PointwiseEstimate.lean] because we'll use it in this exact shape here too https://github.com/fpvandoorn/carleson/pull/176.

**Comment by fpvandoorn** [comment]
Thanks!
